US06867198B2
3-(5-(methylamino)methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione
3-(5-bromomethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione (330 mg, 0.69 mmol) was added to a solution of ammonia in tetrahydrofuran (2.0 M, 7 mL) in a pressure flask. The solution was heated at 50° C. for 26 hours. An additional 2.0 mL of ammonia in tetrahydrofuran (2.0 M) were added and the reaction mixture heated for another 18 hours. The reaction mixture was concentrated under reduced pressure and the residue subjected to silica gel chromatography to provide 210 mg of the title compound.

reactant | 3-(5-bromomethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione | 0.69 mmol, 330 mg | BrCC1CN2C3=C(C=CC=C3C1)C(=C2)C=2C(NC(C2C2=CNC1=CC(=CC=C21)F)=O)=O | C24H17BrFN3O2
reactant | ammonia | N | H3N
reactant | ammonia | 2.0 mL | N | H3N
reactant | tetrahydrofuran | 2.0 M, 7 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2.0 M | O1CCCC1 | C4H8O
product | 3-(5-(methylamino)methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione | 210 mg | CNCC1CN2C3=C(C=CC=C3C1)C(=C2)C=2C(NC(C2C2=CNC1=CC(=CC=C21)F)=O)=O | C25H21FN4O2
